US06589967B1
0.43 g (2.56 mmol) of 2,6-dimethoxybenzyl alcohol was dissolved in 5 ml of benzene, and the resultant solution was added with 0.40 g (3.36 mmol) of thionyl chloride at a room temperature. The mixture was then stirred for an hour at a room temperature to facilitate the provided compounds to react. The reacted solution was then condensed under reduced pressure to obtain a crude product of 2,6-dimethoxybenzyl chloride.

reactant | 2,6-dimethoxybenzyl alcohol | 2.56 mmol, 0.43 g | COC1=C(CO)C(=CC=C1)OC | C9H12O3
reactant | thionyl chloride | 3.36 mmol, 0.40 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2,6-dimethoxybenzyl chloride | COC1=C(CCl)C(=CC=C1)OC | C9H11ClO2
